US07384970B2
(S)—N-{3-Cyclohexyl-1-[2-(5-benzyloxy-2,3-dihydro-indol-1-yl)-ethylcarbamoyl]-propyl}-3-methoxy-benzamide.
Following the procedures of Example 3, except using m-anisoyl chloride, (S)-2-amino-4-cyclohexyl-butyric acid, ethanolamine and 5-benzyloxyindoline as starting materials, the title compound was prepared in 10% yield. The final material was purified by reverse phase preparative HPLC using TFA as a modifier. The final compound is therefore a partial TFA salt: HPLC-MS calcd. for C35H43N3O4 (M+H+) 570.3, found 570.6.

reactant | m-anisoyl chloride | C(C1=CC(=CC=C1)OC)(=O)Cl | C8H7ClO2
reactant | (S)-2-amino-4-cyclohexyl-butyric acid | N[C@H](C(=O)O)CCC1CCCCC1 | C10H19NO2
reactant | ethanolamine | C(O)CN | C2H7NO
reactant | 5-benzyloxyindoline | C(C1=CC=CC=C1)OC=1C=C2CCNC2=CC1 | C15H15NO
product | (S)—N-{3-Cyclohexyl-1-[2-(5-benzyloxy-2,3-dihydro-indol-1-yl)-ethylcarbamoyl]-propyl}-3-methoxy-benzamide | 10% yield | C1(CCCCC1)CC[C@@H](C(NCCN1CCC2=CC(=CC=C12)OCC1=CC=CC=C1)=O)NC(C1=CC(=CC=C1)OC)=O | C35H43N3O4
